US08541411B2
b) 2-(difluoromethyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxylic acid
A mixture methyl 2-(difluoromethyl)-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazole-4-carboxylate (700 mg, 1.55 mmol) and 2N LiOH (5 mL) in THF (10 mL) was stirred at 45° C. for 4 h. It was filtered, the filter cake was dissolved in water (10 mL) and formic acid was added to adjust pH to 3-4. Then a filtration was performed and the filter cake was collected, dried under vacuum to give the product (450 mg, 66%) as a white solid. 1H NMR (300 MHz, DMSO-d6,): δ ppm 3.07 (s, 4H), 3.68 (s, 4H, s), 6.20 (s, 2H), 6.30 (d, 1H, J=7.2 Hz), 7.20-7.72 (m, 6H), 7.85 (d, 1H, J=8.1 Hz), 8.01 (d, 1H, J=7.8 Hz), 8.24 (d, 1H, J=7.5 Hz); LC-MS: m/e=438 [M+1]+

reactant | methyl 2-(difluoromethyl)-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazole-4-carboxylate | 1.55 mmol, 700 mg | FC(C1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C(=O)OC)N2CCOCC2)F | C25H23F2N3O3
reactant | LiOH | 2N, 5 mL | [Li+].[OH-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(difluoromethyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxylic acid | 450 mg, 66% | FC(C1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C(=O)O)N2CCOCC2)F | C24H21F2N3O3
